US04975461
A. 4-Benzyloxy-N-(1,2,3,4-tetrahydro-2-naphthalenyl)aniline
A solution of 1.00 g (4.2 mmol, Aldrich) of 4-benzyloxyaniline hydrochloride, 560 μl (4.24 mmol, Aldrich) of β-tetralone and 132 mg (2.10 mmol) of sodium cyanoborohydride in 30 ml of MeOH over 3A molecular sieves was stirred at room temperature for 2.5 hours. The mixture was filtered, EtOAc was added and this was washed with saturated NaHCO3 twice. The organic layer was dried (MgSO4) and concentrated in vacuo. Purification via flash chromatography (silica gel, 1:10 EtOAc/petroleum ether) afforded 1.28 g (93%) of title compound as a golden yellow oil.

reactant | 4-benzyloxyaniline hydrochloride | 4.2 mmol, 1.00 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
reactant | β-tetralone | 4.24 mmol, 560 μl | C1CC2=CC=CC=C2CC1=O | C10H10O
reactant | sodium cyanoborohydride | 2.10 mmol, 132 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 30 ml | CO | CH4O
product | 4-Benzyloxy-N-(1,2,3,4-tetrahydro-2-naphthalenyl)aniline | 1.28 g, 93% | C(C1=CC=CC=C1)OC1=CC=C(NC2CC3=CC=CC=C3CC2)C=C1 | C23H23NO
